US08912339B2
Another embodiment of the present disclosure includes a method of forming 2-(4-chloro-2-fluro-3-methoxylphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane that comprises contacting 2-chloro-6-fluoroanisole with n-butyl lithium to form 6-chloro-2-fluoro-3-lithioanisole. The 6-chloro-2-fluoro-3-lithioanisole may be contacted with trimethyl borate to form dimethyl 4-chloro-2-fluoro-3-methoxyphenylboronate. The dimethyl 4-chloro-2-fluoro-3-methoxyphenylboronate may be reacted with aqueous potassium hydroxide to form potassium (4-chloro-2-fluoro-3-methoxyphenyl)trihydroxyborate. The potassium (4-chloro-2-fluoro-3-methoxyphenyl)trihydroxyborate then may be reacted with aqueous hydrochloric acid to form 4-chloro-2-fluoro-3-methoxyphenylboronic acid. The 4-chloro-2-fluoro-3-methoxyphenylboronic acid may be reacted with 2,3-dimethyl-2,3-butanediol.

reactant | 2-(4-chloro-2-fluro-3-methoxylphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | ClC1=C(C(=C(C=C1)B1OC(C(O1)(C)C)(C)C)F)OC | C13H17BClFO3
reactant | 2-chloro-6-fluoroanisole | ClC1=C(C(=CC=C1)F)OC | C7H6ClFO
reactant | n-butyl lithium | C(CCC)[Li]
product | 6-chloro-2-fluoro-3-lithioanisole | ClC1=CC=C(C(=C1OC)F)[Li] | InChI=1S/C7H5ClFO.Li/c1-10-7-5(8)3-2-4-6(7)9;/h2-3H,1H3;
